US04061637
The 4-p-fluorophenyl-5-β-chloroethyl-4-thiazolin-2-one is prepared in the following manner: A mixture of 30 g of 1-p-fluorobenzoyl-1-bromo-3-chloropropane (prepared in accordance with our Italian Patent Application No. 23444 A/72 filed 22.4.1972), 11.5 g of potassium thiocyanate, 120 cc of ethanol and 6 cc of water is boiled under reflux for 4 hours. The precipitated solid is filtered while hot and 1-p-fluorobenzoyl-1-thiocyano-3-chloropropane precipitates from the filtrate on cooling. 22.1 g of the latter, 66 cc of glacial acetic acid and 11 cc of concentrated H2SO4 are boiled under relux for 4 hours. The acetic acid is removed from the reacting mass under reduced pressure and the residue is extracted while hot with chloroform. The chloroform solution is evaporated to dryness under reduced pressure and the residue recrystallised. M.P. = 138° C (from isopropyl alcohol).

reactant | 1-p-fluorobenzoyl-1-bromo-3-chloropropane | 30 g | FC1=CC=C(C(=O)C(CCCl)Br)C=C1 | C10H9BrClFO
reactant | potassium thiocyanate | 11.5 g | [S-]C#N.[K+]
reactant | ethanol | 120 cc | C(C)O | C2H6O
solvent | water | 6 cc | O | H2O
product | 4-p-fluorophenyl-5-β-chloroethyl-4-thiazolin-2-one | FC1=CC=C(C=C1)C=1NC(SC1CCCl)=O | C11H9ClFNOS
